US07196087B2
To a solution of acetic acid 2-bromo-6-nitro-benzyl ester (536 mg, 1.96 mmol) in water (20 ml) was added KOH solution (10%, 1.5 ml). The reaction was heated under reflux overnight. After cooling to room temperature, the reaction mixture was extracted with ethyl acetate. The combined extracts were treated with MgSO4, and concentrated under vacuum to give (2-bromo-6-nitro-phenyl)-methanol (389 mg, 86%) as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ: 4.93 (d, J=7.43 Hz), 7.354 (t, J=8.10 Hz), 7.84 (dd, J=1.23 Hz, 8.17 Hz), 7.89(dd, J=1.22 Hz, 8.03 Hz).

reactant | acetic acid 2-bromo-6-nitro-benzyl ester | 1.96 mmol, 536 mg | BrC1=C(COC(C)=O)C(=CC=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | KOH | 1.5 ml | [OH-].[K+]
solvent | water | 20 ml | O | H2O
product | (2-bromo-6-nitro-phenyl)-methanol | 389 mg, 86% | BrC1=C(C(=CC=C1)[N+](=O)[O-])CO | C7H6BrNO3
